US07468375B2
Step 5: 3-Amino-N,3-dicyclopropylpropanamide
To 1 L round-bottom flask was charged a solution of 3-amino-N,3-dicyclopropylpropanamide hydrochloride (12 g, 38 mmol) in THF (400 mL). To this was added 30% ammonium hydroxide (7 mL, 57 mmol) dropwise. The mixture was stirred at room temperature for 30 min. Some ammonium chloride was separated. The reaction mixture was diluted with dichloromethane (1 L), washed with water (2×100 mL), brine (100 mL) and dried over sodium sulfate. Removal of the solvent under reduced pressure and drying in a vacuum oven overnight afforded the title compound as an oil which solidified after 2 days (9 g, 85% yield) mp=116-118° C. 1H NMR (300 MHz, DMSO-d6) 8 ppm 7.93 (s, 1H), 2.85 (s, 2H), 2.50-2.42 (m, 1H), 2.29-2.16 (m, 1H) 2.22-1.91 (m, 2H) 0.64-0.50 (m, 1H) 0.5-0.05 (m, 2H); LCMS (API-ES, M+H+): 169.2.

reactant | 3-amino-N,3-dicyclopropylpropanamide hydrochloride | 38 mmol, 12 g | Cl.NC(CC(=O)NC1CC1)C1CC1
reactant | ammonium hydroxide | 57 mmol, 7 mL | [OH-].[NH4+]
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-Amino-N,3-dicyclopropylpropanamide | 85% yield | NC(CC(=O)NC1CC1)C1CC1 | C9H16N2O
